US08912188B2
To a solution of methyl 2-methoxy-4-(4-methoxybenzylamino)-5-nitrobenzoate (544 g, 144.37 mmol) in methanol (1500 mL) was added palladium on carbon (15 g). The solution was allowed to react for 2 h at room temperature under an atmosphere of H2 (g). The solids were filtered from the resulting solution, and the filtrate was concentrated in vacuo to afford methyl 5-amino-2-methoxy-4-(4-methoxybenzylamino)benzoate as a white solid (30.0 g, 75%).

reactant | methyl 2-methoxy-4-(4-methoxybenzylamino)-5-nitrobenzoate | 144.37 mmol, 544 g | COC1=C(C(=O)OC)C=C(C(=C1)NCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H18N2O6
solvent | methanol | 1500 mL | CO | CH4O
catalyst | palladium on carbon | 15 g | [Pd] | Pd
product | methyl 5-amino-2-methoxy-4-(4-methoxybenzylamino)benzoate | 30.0 g, 75% | NC=1C(=CC(=C(C(=O)OC)C1)OC)NCC1=CC=C(C=C1)OC | C17H20N2O4
